US07282588B2
Preparation of methyl {4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}carbamate
To a solution of 4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]aniline (0.18 mmol) in pyridine (1.5 mL) was added methyl chloroformate (0.18 mmol). After 3.5 h, the reaction mixture was quenched with methanol and concentrated in vacuo. Purification of the residue by Gilson reverse phase HPLC provided the title product as a pale yellow powder (40%). ESMS [M+H]+: 362.2

reactant | 4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]aniline | 0.18 mmol | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC=C2)C2=CC=C(N)C=C2 | C18H17N5
reactant | methyl chloroformate | 0.18 mmol | ClC(=O)OC | C2H3ClO2
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | methyl {4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}carbamate | 40% | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC=C2)C2=CC=C(C=C2)NC(OC)=O | C20H19N5O2
